US07863302B2
6-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxyl]-2-methyl-phenyl}-1H-indole-3-carboxylic acid
A mixture of 6-{4-[3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-1H-indole-3-carboxylic acid methyl ester (80 mg, 0.15 mmol), 5 N sodium hydroxide (150 μL, 0.750 mmol), methanol (2 mL) and THF (1 mL) is heated at 85° C. for five hours. The mixture is cooled and 5 mL of water is added and the volatile solvents are evaporated under reduced pressure. The basic layer is washed with ether and then acidified with 1 N HCl and extracted with ether. The second ether layers are dried over anhydrous magnesium sulfate, are concentrated, and are crystallized from ether-hexane to provide 42 mg (54%) of the title compound. LC-ES/MS m/e 535.0 (M+1), 93.2% purity.

reactant | 6-{4-[3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-1H-indole-3-carboxylic acid methyl ester | 0.15 mmol, 80 mg | COC(=O)C1=CNC2=CC(=CC=C12)C1=C(C=C(C=C1)OCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl)C | C30H26Cl2N2O4
reactant | sodium hydroxide | 0.750 mmol, 5 N, 150 μL | [OH-].[Na+]
reactant | methanol | 2 mL | CO | CH4O
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 6-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxyl]-2-methyl-phenyl}-1H-indole-3-carboxylic acid | 42 mg, 54% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)C1=CC=C2C(=CNC2=C1)C(=O)O)C)C(C)C | C29H24Cl2N2O4
